US09024041B2
A suspension of 2-methoxy-4-hydrazinylbenzoic acid hydrochloride (1.05 g, 90% purity, 4.34 mmol) and 4,4-dimethyl-3-oxopentanenitrile (664 mg, 5.31 mmol) in ethanol (20 mL) containing conc hydrochloric acid (12 M, 0.44 mL, 5.0 mmol) was heated at reflux for 28 hr and then cooled to RT. The reaction mixture was treated with aq NaOH (2.0 M, 8.6 mL, 17 mmol) and was maintained at RT for 20 hr and then concentrated to half its original volume in vacuo. Then residue was washed with DCM (2×15 mL) and the aq layer was acidified to pH 5 with conc hydrochloric acid (12 M, 1.0 mL) and re-extracted with DCM (5×30 mL). The combined organic extracts were washed with brine (10 mL) and then dried and evaporated in vacuo to afford 4-(5-amino-3-tert-butyl-1H-pyrazol-1-yl)-2-methoxybenzoic acid as a brown solid (900 mg, 61%); Rt 1.47 min (Method 2); m/z 290 (M+H)+, (ES+).

reactant | 2-methoxy-4-hydrazinylbenzoic acid hydrochloride | 4.34 mmol, 1.05 g | Cl.COC1=C(C(=O)O)C=CC(=C1)NN
reactant | 4,4-dimethyl-3-oxopentanenitrile | 5.31 mmol, 664 mg | CC(C(CC#N)=O)(C)C | C7H11NO
reactant | hydrochloric acid | 5.0 mmol, 12 M, 0.44 mL | Cl | ClH
reactant | NaOH | 17 mmol, 2.0 M, 8.6 mL | [OH-].[Na+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 4-(5-amino-3-tert-butyl-1H-pyrazol-1-yl)-2-methoxybenzoic acid | 900 mg, 61% | NC1=CC(=NN1C1=CC(=C(C(=O)O)C=C1)OC)C(C)(C)C | C15H19N3O3
